US07994205B2
1-{1-[(2,6-difluorophenyl)sulfonyl]-2-phenyl-1H-imidazol-4-yl}-N-methylmethanamine fumarate
A mixture of 1-[(2,6-difluorophenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde (1.23 g), methylammonium chloride (1.19 g) and methanol (40 mL) was stirred at room temperature for 30 min, sodium triacetoxyborohydride (2.25 g) was added, and the mixture was further stirred for 1 hr. The reaction mixture was concentrated under reduced pressure at 30° C., saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (40 mL), and crystallized by adding a solution of anhydrous fumaric acid (410 mg) in methanol (4 mL) to give the title compound as colorless crystals (yield 750 mg, 44%).

reactant | 1-[(2,6-difluorophenyl)sulfonyl]-2-phenyl-1H-imidazole-4-carbaldehyde | 1.23 g | FC1=C(C(=CC=C1)F)S(=O)(=O)N1C(=NC(=C1)C=O)C1=CC=CC=C1 | C16H10F2N2O3S
reactant | methylammonium chloride | 1.19 g | [Cl-].C[NH3+]
reactant | sodium triacetoxyborohydride | 2.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methanol | 40 mL | CO | CH4O
product | 1-{1-[(2,6-difluorophenyl)sulfonyl]-2-phenyl-1H-imidazol-4-yl}-N-methylmethanamine fumarate | yield 750 mg, 44% | C(\C=C\C(=O)O)(=O)O.FC1=C(C(=CC=C1)F)S(=O)(=O)N1C(=NC(=C1)CNC)C1=CC=CC=C1 | InChI=1S/C17H15F2N3O2S.C4H4O4/c1-20-10-13-11-22(17(21-13)12-6-3-2-4-7-12)25(23,24)16-14(18)8-5-9-15(16)19;5-3(6)1-2-4(7)8/h2-9,11,20H,10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
